US03963780
N-(3-isopropoxypropyl)-N'-(2 -octyl)-p-phenylenediamine
A mixture of 50 g. of N-(3-isopropoxypropyl)-p-phenylenediamine, 50 g. of 2-octyl bromide, 200 ml. of 2N sodium carbonate and 1 liter of ethanol is stirred for 18 hours at 60°C. The reaction mixture is treated with 1 liter of water and extracted with 1 liter of ether. The ether layer is separated, washed with 1200 ml. of water, dried over sodium sulfate and evaporated in vacuo. A mixture of the residue in ether is treated with hydrogen chloride gas to yield the title product in dihydrochloride salt form, m.p. 200°-202°C.

reactant | N-(3-isopropoxypropyl)-p-phenylenediamine | C(C)(C)OCCCNC1=CC=C(C=C1)N | C12H20N2O
reactant | 2-octyl bromide | CC(CCCCCC)Br | C8H17Br
reactant | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 1 liter | C(C)O | C2H6O
solvent | water | 1 liter | O | H2O
product | N-(3-isopropoxypropyl)-N'-(2 -octyl)-p-phenylenediamine | C(C)(C)OCCCNC1=CC=C(C=C1)NC(C)CCCCCC | C20H36N2O
